US08748462B2
5-(Benzyloxy)-1,1-dimethoxy-1,2-dihydrocyclobutabenzene (H7.1)
To a 6 mL THF solution of 1-(benzyloxy)-4-bromobenzene (500 mg, 1900 μmol) (commercially available from Sigma-Aldrich, St. Louis, Mo., USA) and ketene dimethyl acetal (359 μL, 3800 μmol) (commercially available from Sigma-Aldrich, St. Louis, Mo., USA) was added neat sodium amide (107 μL, 3800 μmol) (commercially available from Sigma-Aldrich, St. Louis, Mo., USA). The resulting mixture was heated to 80° C. and stirred for 48 hours. After the reaction was complete, it was quenched by slow addition of water. The resulting mixture was then extracted with EtOAc. The organic layer was washed with brine and dried over MgSO4. Solvent was removed in the presence of silica gel, and the residue was purified by column chromatography with 20% EtOAc/hexane to afford desired product H7.1 (274 mg, yield, 60%). MS ESI (pos.) m/e: 271.1 (M+H)+.

reactant | 1-(benzyloxy)-4-bromobenzene | 1900 μmol, 500 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
reactant | ketene dimethyl acetal | 3800 μmol, 359 μL | COC(=C)OC | C4H8O2
reactant | sodium amide | 3800 μmol, 107 μL | [NH2-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 5-(Benzyloxy)-1,1-dimethoxy-1,2-dihydrocyclobutabenzene | C(C1=CC=CC=C1)OC=1C=CC2=C(C1)C(C2)(OC)OC | C17H18O3
